US07169778B2
5. 4-(Cyclopentylamino)-2-[[4-(4-methylpiperazin-1-yl)phenyl]amino]-5-nitropyrimidine
To a solution of 0.97 g (4 mmol) of 2-chloro-4-(cyclopentylamino)-5-nitropyrimidine in 50 mL THF at −78° C. is added a solution of 0.91 g (4.8 mmol) of 1-(4-aminophenyl)-4-methylpiperazine in 50 mL of 2-propanol, and the resulting mixture is allowed to warm slowly to room temperature. After acidification with acetic acid, the solvents were removed under vacuum, and the residue is dissolved in water. After being washed with EtOAc, the aqueous solution is basified with aqueous ammonia, and the product is extracted into EtOAc and dried, to give 1.15 g (77%) of the title compound: mp (MeOH) 204–206° C.

reactant | 2-chloro-4-(cyclopentylamino)-5-nitropyrimidine | 4 mmol, 0.97 g | ClC1=NC=C(C(=N1)NC1CCCC1)[N+](=O)[O-] | C9H11ClN4O2
reactant | 1-(4-aminophenyl)-4-methylpiperazine | 4.8 mmol, 0.91 g | NC1=CC=C(C=C1)N1CCN(CC1)C | C11H17N3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | 2-propanol | 50 mL | CC(C)O | C3H8O
product | 4-(Cyclopentylamino)-2-[[4-(4-methylpiperazin-1-yl)phenyl]amino]-5-nitropyrimidine | 1.15 g, 77% | C1(CCCC1)NC1=NC(=NC=C1[N+](=O)[O-])NC1=CC=C(C=C1)N1CCN(CC1)C | C20H27N7O2
